US08217065B2
{5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-pyridin-3-yl-amine
Combine 3-aminopryidine (30 mg, 0.312 mmol) and di-imidazol-1-yl -methanethione (56 mg, 0.312 mmol) in DMF (0.3 mL) and stir for 2 days. Add 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (77 mg, 0.240 mmol) and dilute with DMF (1.5 mL). Heat the reaction to 80° C. for 1 hr. Add EDCI (92 mg, 0.480 mmol) and heat for 1 hr at 80° C. Allow reaction to cool to room temp and dilute the reaction with water. Collect the resulting precipitate by filtration. Purify the solid by reverse-phase HPLC (25-65% ACN/H2O+5 mM NH4OH) to afford the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 7.44 (dd, J=8.34, 4.80 Hz, 1 H) 7.63-7.67 (m, 1H) 7.70 (s, 1 H) 7.72 (d, J=1.77 Hz, 1 H) 7.87 (br. s., 2 H) 8.13 (ddd, J=8.40, 2.59, 1.39 Hz, 2 H) 8.25 (dd, J=4.80, 1.26 Hz, 1 H) 8.80 (d, J=2.53 Hz, 1 H) 10.98 (s, 1 H) 13.30 (br. s., 1H); MS (m/z) 423.1 (M+1).

reactant | 3-aminopryidine | 0.312 mmol, 30 mg | NC=1C=NC=CC1 | C5H6N2
reactant | di-imidazol-1-yl -methanethione | 0.312 mmol, 56 mg | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.240 mmol, 77 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | EDCI | 0.480 mmol, 92 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {5-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-[1,3,4]oxadiazol-2-yl}-pyridin-3-yl-amine | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C2=NN=C(O2)NC=2C=NC=CC2 | C20H12Cl2N6O
